US07423056B2
a.) 1-Benzyl-4-trifluoromethanesulfonyloxy-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid ethyl ester (Scheme 5 & 6)
Sodium hydride (60% dispersion on oil, 1.43 g {861 mg}, 35.9 mmol) was washed with anhydrous hexane (2×25 ml) and then suspended in anhydrous ether (107 ml). At 0° C., a solution of 1-Benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester (7.8 g, 29.9 mmol) in ether (43 ml) was added dropwise and the mixture was stirred for 30 minutes and then cooled to −78° C. Next, triflic anhydride (6 ml, 35.9 mmol) was added and the reaction was slowly warmed to 22° C. over 16 hours. The reaction was quenched with H2O (100 ml), washed with brine (100 ml) and dried (MgSO4) providing 9.9 g (84%) of the subtitle compound that was used without further purification.

reactant | Sodium hydride | 35.9 mmol, 1.43 g | [H-].[Na+]
reactant | 1-Benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester | 29.9 mmol, 7.8 g | C(C)OC(=O)C1CN(CCC1=O)CC1=CC=CC=C1 | C15H19NO3
reactant | triflic anhydride | 35.9 mmol, 6 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | hexane | 25 ml | CCCCCC | C6H14
solvent | ether | 107 ml | CCOCC | C4H10O
solvent | ether | 43 ml | CCOCC | C4H10O
product | 1-Benzyl-4-trifluoromethanesulfonyloxy-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid ethyl ester | 9.9 g, 84% | C(C)OC(=O)C=1CN(CCC1OS(=O)(=O)C(F)(F)F)CC1=CC=CC=C1 | C16H18F3NO5S
